US09108938B2
N-[2-(4-Fluoro-phenyl)-2-morpholin-4-yl-ethyl]-2-methyl-benzamide
From 2-methylbenzoic acid and 2-(4-fluoro-phenyl)-2-morpholin-4-yl-ethylamine.

reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | 2-(4-fluoro-phenyl)-2-morpholin-4-yl-ethylamine | FC1=CC=C(C=C1)C(CN)N1CCOCC1 | C12H17FN2O
product | N-[2-(4-Fluoro-phenyl)-2-morpholin-4-yl-ethyl]-2-methyl-benzamide | FC1=CC=C(C=C1)C(CNC(C1=C(C=CC=C1)C)=O)N1CCOCC1 | C20H23FN2O2
